US07468457B2
b. Synthesis of 4-[(E)-3-(6-Benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)-3-oxopropenyl]benzoic Acid
970 mg (2.6 mmol) of 1-(6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)ethanone are dissolved in 40 mL of methanol. 350 mg (2.3 mmol) of 4-carboxybenzaldehyde are added, followed by 1.23 mL (10 mmol) of 47% KOH. The reaction medium is stirred for 36 hours and then acidified with concentrated hydrochloric acid. The medium is extracted with ethyl acetate, and the residue obtained is purified by chromatography on a column of silica. The solid obtained is recrystallized from an ethyl ether/heptane mixture. A yellow powder is obtained (m=500 mg; yield=38%; m.p.=208° C.).

reactant | 1-(6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)ethanone | 2.6 mmol, 970 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=CC=C(C=C1)C)C(C)=O)C(C)(C)C | C26H28O2
reactant | 4-carboxybenzaldehyde | 2.3 mmol, 350 mg | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | KOH | 10 mmol, 1.23 mL | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 4-[(E)-3-(6-Benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)-3-oxopropenyl]benzoic Acid | yield=38% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=CC=C(C=C1)C)C(/C=C/C1=CC=C(C(=O)O)C=C1)=O)C(C)(C)C | C34H32O4
